US09120819B2
Stage A: Methyl 2-amino-5-[(1-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-2-methylindolizin-3-yl)carbonyl]benzoate
5.43 ml (2.71 mmol) of potassium bis(trimethylsilyl)amide at −20° C. are added to the solution of 0.80 g (2.47 mmol) of methyl 2-amino-5-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate in 12 ml of tetrahydrofuran. After 15 minutes, 1.49 g (4.93 mmol) of tert-butyl[3-(bromomethyl)phenoxy]acetate (CAS 176673-59-9 described in Patent Application WO2004014366) in solution in 2 ml of tetrahydrofuran are added and the mixture is then heated at 40° C. for 12 hours. The reaction medium is poured into a saturated aqueous solution of potassium hydrogen sulphate, and the mixture is extracted with ethyl acetate. The organic phase is washed with water and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. After purification by flash chromatography on silica gel (toluene/ethyl acetate gradient=100/00 to 60/40), 0.92 g (61%) of a yellow oil is obtained.

reactant | potassium bis(trimethylsilyl)amide | 2.71 mmol, 5.43 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl 2-amino-5-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate | 2.47 mmol, 0.80 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)O)C | C18H16N2O4
reactant | tert-butyl[3-(bromomethyl)phenoxy]acetate | 4.93 mmol, 1.49 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)CBr)=O | C13H17BrO3
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl 2-amino-5-[(1-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-2-methylindolizin-3-yl)carbonyl]benzoate | 0.92 g, 61% | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OCC1=CC(=CC=C1)OCC(=O)OC(C)(C)C)C | C31H32N2O7
